US05843971
1,1-Bis(4,5-dimethyl-2-thiazolyl)-2,2,2-trifluoroethanol
From 4,5-dimethylthiazole and 4,5-dimethyl-2-trifluoroacetylthiazole. M.p. 122°-123.5° C. 13C Nmr (d6 -DMSO) 10.5, 14.4, 76.9 (g, J 30 Hz) 123.1 (q, J 286Hz), 129.0, 147.9 and 161.0 ppm.

reactant | 4,5-dimethylthiazole | CC=1N=CSC1C | C5H7NS
reactant | 4,5-dimethyl-2-trifluoroacetylthiazole | CC=1N=C(SC1C)C(C(F)(F)F)=O | C7H6F3NOS
solvent | DMSO | CS(=O)C | C2H6OS
product | 1,1-Bis(4,5-dimethyl-2-thiazolyl)-2,2,2-trifluoroethanol | CC=1N=C(SC1C)C(C(F)(F)F)(O)C=1SC(=C(N1)C)C | C12H13F3N2OS2
